US08124633B2
Step A: tert-butyl (3aR,4R,5S,7aS)-5-{(1S)-2-(benzoyloxy)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-4-(2-methylphenyl)octahydro-2H-isoindole-2-carboxylate
To a solution of the (1S) isomer of EXAMPLE 1 (tert-Butyl (3aR,4R,5S,7aS)-5-{(1S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxyethoxy}-4-(2-methylphenyl)octahydro-2H-isoindole-2-carboxylate, 8.61 g, 14.65 mmol) in 50 mL pyridine was added benzoyl chloride (3.40 mL, 29.3 mmol). The mixture was stirred at 50° C. for 16 hr. The volatiles were removed in vacuo. The residue was dissolved in 200 mL ethyl acetate, washed with sodium bicarbonate aqueous and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexane, 15% to 30% for 2900 mL, then 30% to 50% for 1250 mL) to give 10.38 g (102% yield) of the title compound. M++1: 588.1.

reactant | tert-Butyl (3aR,4R,5S,7aS)-5-{(1S)-1-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxyethoxy}-4-(2-methylphenyl)octahydro-2H-isoindole-2-carboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](CO)O[C@@H]1[C@H]([C@@H]2CN(C[C@H]2CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C)(F)F | C30H35F6NO4
reactant | benzoyl chloride | 29.3 mmol, 3.40 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (3aR,4R,5S,7aS)-5-{(1S)-2-(benzoyloxy)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-4-(2-methylphenyl)octahydro-2H-isoindole-2-carboxylate | 10.38 g, 102% yield | C(C1=CC=CC=C1)(=O)OC[C@@H](O[C@@H]1[C@H]([C@@H]2CN(C[C@H]2CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C37H39F6NO5
